US08222248B2
A mixture of 4-hydroxy-2,6-dimethyl-benzaldehyde (87 mg), ethyl chloroacetate (85 mg) and Cs2CO3 (375 mg) in acetone (4 mL) was stirred at room temperature for 16 h. The mixture was concentrated, diluted with water, and extracted with EtOAc. The organic extracts were washed with brine, dried over Na2SO4, and concentrated under reduced pressure to give (4-formyl-3,5-dimethyl-phenoxy)-acetic acid ethyl ester: MS (m/z) 237 (M+1); 1H NMR (CDCl3, 400 MHz) δ 10.48 (s, 1H), 6.59 (s, 2H), 4.66 (s, 2H), 4.29 (q, 2H), 2.60 (s, 6H), 3.29 (t, 3H).

reactant | 4-hydroxy-2,6-dimethyl-benzaldehyde | 87 mg | OC1=CC(=C(C=O)C(=C1)C)C | C9H10O2
reactant | ethyl chloroacetate | 85 mg | ClCC(=O)OCC | C4H7ClO2
reactant | Cs2CO3 | 375 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | (4-formyl-3,5-dimethyl-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC(=C(C(=C1)C)C=O)C)=O | C13H16O4
